US07052742B1
[4-(5-Undecyl-pyrimidin-2-yl)phenyl]2-propyl-thiazole-5-carboxylate
4.9 g of 4-(5-undecyl-pyrimidin-2-yl)phenol, 1.7 g of 2-propyl-thiazole-5-carboxylic acid (prepared as described by Clemence et al., Eur. J. Med. Chem. Chimica Therapeutica 1976-11, no. 6, p. 567–570) and 2.1 g of dicyclohexylcarbodiimide are stirred for 24 h in 50 ml of dichloromethane at room temperature. Filtration, removal of the dichloromethane by distillation, purification by chromatography (silica gel; dichloromethane/heptane) and recrystallization from acetonitrile affords the target compound as colorless crystals.

reactant | 4-(5-undecyl-pyrimidin-2-yl)phenol | 4.9 g | C(CCCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C21H30N2O
reactant | 2-propyl-thiazole-5-carboxylic acid | 1.7 g | C(CC)C=1SC(=CN1)C(=O)O | C7H9NO2S
reactant | dicyclohexylcarbodiimide | 2.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | [4-(5-Undecyl-pyrimidin-2-yl)phenyl]2-propyl-thiazole-5-carboxylate | C(CCCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OC(=O)C1=CN=C(S1)CCC | C28H37N3O2S
